US06211234B1
A solution of 2-(5-methoxy-2-methylphenyl)-[1,3]dioxolane (18.25 g) in tetrahydrofuran (180 mL) is treated with 1 N hydrochloric acid (27 mL). The reaction mixture is heated at reflux for 2 hours, evaporated and the residue is partitioned between ethyl acetate (150 mL) and water (150 mL). The organic phase is washed with water (150 mL), with brine (150 mL), dried over magnesium sulphate and evaporated to give 5-methoxy-2-methylbenzaldehyde (12 g) as an orange oil.

reactant | 2-(5-methoxy-2-methylphenyl)-[1,3]dioxolane | 18.25 g | COC=1C=CC(=C(C1)C1OCCO1)C | C11H14O3
reactant | hydrochloric acid | 1 N, 27 mL | Cl | ClH
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
product | 5-methoxy-2-methylbenzaldehyde | 12 g | COC=1C=CC(=C(C=O)C1)C | C9H10O2
